US07888366B2
Sodium hydride (60%; 316 mg; 7.9 mmol) was suspended in DMF and cooled to 0° C. 1-Methylpiperidin-3-ylmethanol (998 mg; 7.5 mmol) was added dropwise to the sodium hydride mixture. The solution was allowed to warm to room temperature and stirred for 30 minutes. The solution was then cooled to 0° C. 2,6-Difluorobenzonitrile (1.1 g; 7.9 mmol) in DMF was cooled to 0° C. and the alcohol mixture was added dropwise to the benzonitrile solution and allowed to warm to room temperature overnight. The solution was poured into water and extracted with dichloromethane and solvent removed. Purification by column chromatography (10% ethyl acetate/hexane) to yield 79 milligrams of 2-fluoro-6-(1-methylpiperidin-3-ylmethoxy)benzonitrile.

reactant | Sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | 1-Methylpiperidin-3-ylmethanol | 7.5 mmol, 998 mg | CN1CC(CCC1)CO | C7H15NO
reactant | 2,6-Difluorobenzonitrile | 7.9 mmol, 1.1 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-fluoro-6-(1-methylpiperidin-3-ylmethoxy)benzonitrile | 79 milligrams | FC1=C(C#N)C(=CC=C1)OCC1CN(CCC1)C | C14H17FN2O
